Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
Right foot pain, Rash
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ M with a history of lower extremity
peripheral neuropathy, HTN, and thoracic syrinx s/p Spinal Cord
Stimulator Insertion Phase 2 by Dr. ___ on ___ who
presented ___ with R foot pain and rash. Developed a rash over
the lateral aspect of his right foot 3 days ago that was mildly
painful. Rash grew in size and the pain increased gradually. 
Last
night while he was sitting in a chair he developed acute pain
over his right lateral malleolus. He takes 15 mg of morphine 4
times a day at home, and the morphine did not relieve his pain.
He consulted with his rheumatologist and dermatologist who
recommended that he come to the ED for further evaluation and
rule out a blood clot. He denies any history of blood clots,
unilateral lower extremity swelling, or dyspnea. He does admit 
to
a 20 minute episode of substernal chest pressure associated with
lightheadedness that happened while walking around his house 
this
afternoon. The chest pressure has since resolved. He denies any
abdominal pain, nausea, vomiting, changes in urination or bowel
movements.

Initial exam notable for blanching well demarcated rash on
lateral right ankle with associated tenderness and edema. 
Several
much smaller non-tender rashes on his left foot and upper
posterior right thigh. Initial labs notable for H/H of 
13.1/38.3,
otherwise normal CBC, normal BMP, and negative troponins x 2. He
received IV ceftriaxone, PO morphine, and IV vancomycin. He got 
a
CT lower extremity notable for soft tissue edema through the
right distal leg, ankle, and foot. R ___ negative for DVT.

In terms of his cryoglobulinemia: He reported that his
cryoglobulinemia was diagnosed by a dermatologist, and it began
this last ___.  He subsequently saw a rheumatologist,
underwent testing at a local hospital which confirmed
cryoglobulins, and denies any alternative rheumatologic
condition.
 
Past Medical History:
- Thoracic syrinx s/p spinal cord stimulator
- DM2
- HTN
- Shingles       
- Cryoglobulinemia
 
Social History:
___
Family History:
Father has a pacemaker.  + DM on his father's
side of the family. Denies autoimmune conditions.

 
Physical Exam:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
24 HR Data (last updated ___ @ 1133)
Temp: 97.9 (Tm 98.4), BP: 126/73 (101-126/65-73), HR: 62 
(62-78),
RR: 18, O2 sat: 92% (92-93), O2 delivery: Ra  
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: PERRL, EOMI, Oropharynx without visible lesion, erythema or
exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Obese, abdomen soft, non-distended, non-tender to palpation.
Bowel sounds present.  
MSK: Neck supple, moves all extremities
SKIN: Red/purple confluent rash over the lateral malleolus,
approximately 15 cm x 15 cm with clearly demarcated borders. The
rash was blanching, and tender to palpation. Right foot and 
ankle
moderately swollen. There was a similar appearing lesion on the
inside of his right thigh that is about 3 cm x 3 cm. And several
smaller spots on left foot. 
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout, steady narrow-based gait.
PSYCH: Very pleasant, appropriate affect
 
Pertinent Results:
Labs: 
___ 08:20PM BLOOD WBC: 5.8 RBC: 4.18* Hgb: 13.1* Hct: 38.3*
MCV: 92 MCH: 31.3 MCHC: 34.2 RDW: 13.4 RDWSD: 45.___ 
___ 08:20PM BLOOD Neuts: 74.6* Lymphs: 14.0* Monos: 9.0 
Eos:
1.4 Baso: 0.5 Im ___: 0.5 AbsNeut: 4.30 AbsLymp: 0.81* AbsMono:
0.52 AbsEos: 0.08 AbsBaso: 0.03 
___ 08:20PM BLOOD Glucose: 106* UreaN: 10 Creat: 0.8 Na: 
138
K: 4.4 Cl: 99 HCO3: 26 AnGap: 13 
___ 08:20PM BLOOD cTropnT: <0.01 

Right ___ ___
No evidence of deep venous thrombosis in the right lower
extremity veins.  
Soft tissue edema about the right ankle. 
  

CT RLE ___
1. Soft tissue edema throughout the right distal leg, ankle, and
visualized foot. No fluid collection, mass, or subcutaneous
emphysema identified. 
2. No fracture or dislocation. 
3. Degenerative changes of the foot as described in the body of
the report.

CXR ___
PA and lateral views of the chest provided.  An epidural 
catheter
is seen 
extending into the mid and lower thoracic spine on the lateral
view.  There is hyperinflation of the lungs with upper lung
lucency suggesting emphysema.  No focal consolidation concerning
for pneumonia.  No large effusion, pneumothorax 
or signs of edema.  The cardiomediastinal silhouette appears
normal.  Imaged bony structures are intact.  No free air below
the right hemidiaphragm. 

 
Brief Hospital Course:
# RLE rash, swelling, and pain:
# Cryoglobulinemia
# Vasculitis 
Patient with a history of cryoglobulinemia-associated vasculitis
presenting with a couple days of right lateral ankle non-raised,
dark red rash with well-demarcated borders with associated
tenderness and soft tissue swelling. Almost identical smaller
rashes on left foot and right posterior thigh. Already much
better symptomatically. Presentation very consistent with a bout
of vasculitis, albeit more severe than prior episodes. Exam not
consistent with intraarticular infection or crystalopathy, CT 
neg
for abscess, and improvement more rapid than would typically be
seen with cellulitis or gout even with appropriate treatment. US
neg for DVT. Discussed with his outpatient rheumatologist Dr.
___ (___) is he is very much in agreement that
this episode represents another self-limiting bout of 
vasculitis.
Suggested prednisone taper if needed to speed resolution. Also
discussed with his outpatient dermatologist Dr. ___ 
who
___ arrange follow up this week.
- discharged with 5-day prescription of pred in case he needs it
- follow up with outpatient rheum and derm
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Morphine Sulfate ___ 15 mg PO BID 
2. Pantoprazole 40 mg PO Q24H 
3. Lisinopril 10 mg PO DAILY 
4. Pregabalin 75 mg PO TID 
5. DULoxetine 30 mg PO TID 
6. rOPINIRole 0.25 mg PO QPM 
7. Glucosamine (glucosamine sulfate) 1500 mg oral DAILY 
8. Morphine Sulfate ___ ___ mg PO QHS 
9. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  PredniSONE 40 mg PO DAILY Duration: 5 Days.
Only take if right ankle pain is not tolerable. Take in morning 
with food. 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*10 Tablet 
Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  DULoxetine 30 mg PO TID  
4.  Glucosamine (glucosamine sulfate) 1500 mg oral DAILY  
5.  Lisinopril 10 mg PO DAILY  
6.  Morphine Sulfate ___ 15 mg PO BID  
7.  Morphine Sulfate ___ ___ mg PO QHS  
8.  Pantoprazole 40 mg PO Q24H  
9.  Pregabalin 75 mg PO TID  
10.  rOPINIRole 0.25 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cryoglobulinemia
Vasculitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You presented with right foot pain and rash. It is now much 
improved. We believe that it was a bout of vasculitic. We've 
discussed your case and our findings with your rhematologist and 
dermatologist, who agree and plan to see you shortly after 
discharge. I'm discharging you with a prescription for 5 days of 
prednisone in case that pain bothers you too much when you are 
walking. You may not need it, though.

Sincerely,
Your ___ Team
 
Followup Instructions:
___